US09085555B2
(2S,4R)-1-[2-(1-Acetyl-1H-indol-3-yl)-2-amino-acetyl]-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide
A solution of {1-(1-acetyl-1H-indol-3-yl)-2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester (102 mg, 0.173 mmol) and TFA (66.7 μL, 0.866 mmol) in CH2Cl2 (0.58 mL) was stirred at 23° C. overnight. TFA (66.7 μL, 0.866 mmol) was again added and the reaction mixture was stirred at 23° C. for an additional 4 h to complete the reaction. Solvents were removed in vacuo and the crude residue was purified by preparative HPLC (Waters SunFire C180 DB, 5 μm, 19×50, eluent: 5% CH3CN/95% H2O to 100% CH3CN in 17 min, CH3CN and H2O containing 0.1% of TFA, flow 20 mL/min) to give after lyophilization of the purified fractions the desired material. MS (LC-MS): 487.1 [M−H]−; tR (HPLC conditions b): 3.19 min.

reactant | {1-(1-acetyl-1H-indol-3-yl)-2-[(2S,4R)-2-(3-chloro-2-fluoro-benzylcarbamoyl)-4-fluoro-pyrrolidin-1-yl]-2-oxo-ethyl}-carbamic acid tert-butyl ester | 0.173 mmol, 102 mg | C(C)(C)(C)OC(NC(C(=O)N1[C@@H](C[C@H](C1)F)C(NCC1=C(C(=CC=C1)Cl)F)=O)C1=CN(C2=CC=CC=C12)C(C)=O)=O | C29H31ClF2N4O5
reactant | TFA | 0.866 mmol, 66.7 μL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | TFA | 0.866 mmol, 66.7 μL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 0.58 mL | C(Cl)Cl | CH2Cl2
product | (2S,4R)-1-[2-(1-Acetyl-1H-indol-3-yl)-2-amino-acetyl]-4-fluoro-pyrrolidine-2-carboxylic acid 3-chloro-2-fluoro-benzylamide | ClC=1C(=C(CNC(=O)[C@H]2N(C[C@@H](C2)F)C(C(N)C2=CN(C3=CC=CC=C23)C(C)=O)=O)C=CC1)F | C24H23ClF2N4O3
